US04435390
Analogously to Example 5(c), 1.0 g of 11β,21-dihydroxy-17-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione is reacted at room temperature with propionic anhydride, worked up, and purified, thus isolating 780 mg of 11β-hydroxy-17-methoxyacetoxy-21-propionyloxy-6α-methyl-1,4-pregnadiene-3,20-dione.

reactant | 11β,21-dihydroxy-17-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione | 1.0 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(COC)=O)C)=O)C | C25H34O7
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 11β-hydroxy-17-methoxyacetoxy-21-propionyloxy-6α-methyl-1,4-pregnadiene-3,20-dione | 780 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(CC)=O)=O)([C@]2(C1)C)OC(COC)=O)C)=O)C | C28H38O8
